US06262080B1
Synthesis of 2-bromo-6-phthalimidohexanoic acid
Combine 6-phthalimidohexanoic acid (12.7 g, 48 mmol) and dry red phosphorous (1.95 g, 63 mmol). Cool in an ice bath and add dropwise bromine (12.7 mL, 246 mmol). Warm to room temperature and then heat to 80° C. After 3 hours, cool the reaction mixture to ambient temperature, pour into water (300 mL) containing sodium bisulfite, and neutralize using solid sodium bicarbonate and extract with diethyl ether (about 150 mL). Acidify the aqueous layer with concentrated hydrochloric acid give a solid. Collect the solid by filtration and dry to give the title compound (15 g, 91.5% yield, 73.2% for both steps).

reactant | 6-phthalimidohexanoic acid | 48 mmol, 12.7 g | C1(C=2C(C(N1CCCCCC(=O)O)=O)=CC=CC2)=O | C14H15NO4
reactant | bromine | 246 mmol, 12.7 mL | BrBr | Br2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 300 mL | O | H2O
product | 2-bromo-6-phthalimidohexanoic acid | 91.5% yield | BrC(C(=O)O)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H14BrNO4
